US07687491B2
(26a) {5-[5-(3-Chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 12 (12a) using 3-chloro-4-isobutylbenzoic acid (0.13 g, 0.61 mmol) that was obtained in Example 24 (24h), 1-hydroxybenzotriazole (86 mg, 0.64 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.12 g, 0.64 mmol), 6-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxypyridine-3-carboximidamide (0.16 g, 0.58 mmol) that was obtained in Example 23 (23c), and a 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (1.2 ml, 1.2 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (2:3 to 1:1) as the eluent to afford the title compound (0.19 g) in a yield of 94% as a white crystalline solid.

reactant | 3-chloro-4-isobutylbenzoic acid | 0.61 mmol, 0.13 g | ClC=1C=C(C(=O)O)C=CC1CC(C)C | C11H13ClO2
reactant | 1-hydroxybenzotriazole | 0.64 mmol, 86 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.64 mmol, 0.12 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 6-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxypyridine-3-carboximidamide | 0.58 mmol, 0.16 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=N1)C(N)=NO | C13H23N3O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 1.2 mmol, 1.2 ml | O1CCCC1 | C4H8O
product | {5-[5-(3-Chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1)CO | C18H18ClN3O2
